US04760163
using ethyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate in dimethylformamide there is obtained ethyl 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate, m.p. 147°-148° C.,

reactant | ethyl 2-chloro-5-[3,6-dihydro-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(NC=CC1=O)=O | C13H11ClN2O4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-1(2H)-pyrimidinyl]-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)N1C(N(C=CC1=O)C)=O | C14H13ClN2O4
